US06225329B1
To a solution of isopropylamine (0.43 ml, 5.0 mmol) in methanol (5 ml) was added isovaleraldehyde (0.54 ml, 5.0 mmol). After 15 minutes of stirring a solution of benzylisocyanide in tetrahydrofuran (1N, 5 ml, 5.0 mmol) was added followed by acrylic acid (0.34 ml, 5.0 mmol). The reaction was stirred at room temperature for 72 h, the volatiles were removed in vacuo and the resulting oil dissolved in ethyl acetate (40 ml). The organic mixture was washed with 1N hydrochloric acid (10 ml) and brine (10 ml), dried (Na2SO4) and the solvent evaporated in vacuo. The crude residue was purified by chromatography using a gradient from 30% ethyl acetate/hexane to 50% ethyl acetate/hexane. Pure fraction were collected and the solvent evaporated in vacuo which afforded 1.5 g (100%) of N-(1-benzylcarbamoyl-3-methyl-butyl-N-isopropyl-acrylamide as an oil.

reactant | isopropylamine | 5.0 mmol, 0.43 ml | C(C)(C)N | C3H9N
reactant | isovaleraldehyde | 5.0 mmol, 0.54 ml | C(CC(C)C)=O | C5H10O
reactant | benzylisocyanide | C(C1=CC=CC=C1)[N+]#[C-] | C8H7N
reactant | tetrahydrofuran | 5.0 mmol, 1N, 5 ml | O1CCCC1 | C4H8O
reactant | acrylic acid | 5.0 mmol, 0.34 ml | C(C=C)(=O)O | C3H4O2
solvent | methanol | 5 ml | CO | CH4O
product | 1-benzylcarbamoyl-3-methyl-butyl-N-isopropyl-acrylamide | C(C1=CC=CC=C1)NC(=O)C(CC(C)C)C(C(=O)NC(C)C)=C | C19H28N2O2
